US04891375
C. 4-(4-(4-(4-(3-Benzisothiazolyl)piperazinyl)butyl)-phenyl)-2-methylthiazole
To a 100 ml round-bottomed flask equipped with condenser and N2 inlet were added 1.43 g (4.11 mmol) 4-(4-chlorobutyl)phenyl)-2-methylthiazole hydrobromide, 0.90 g. (4.11 mmol) N-benzisothiazolylpiperazine, 0.72 g (4.11 mmol) diisopropylethyl amine, 0.87 g (8.22 mmol) sodium carbonate, 2 mg sodium iodide, and 40 ml methylisobutyl ketone. The reaction was refluxed 31 hours, cooled, filtered, and the filtrate evaporated. The residue was chromatographed on silica gel using ethyl acetate/methylene chloride as eluent to afford an oil, which was taken up in methylene chloride and precipitated by addition of ether saturated with HCl. The solid was filtered, washed with ether, dried briefly, then washed with a minimal amount of acetone and dried to afford a white solid, m.p. 207-212° C., 1.87 g (87.2%). NMR (DMSO-d6): 1.6-1.8 (m, 4H), 2.64 (t, 2H), 2.72 (s, 3H), 3.1-3.3 (m, 4H), 3.4-3.6 (m,4 H), 4.0 (d, 2H), 7.2-8.1 (m, 8H), 7.85 (s, 1H).

reactant | 2-methylthiazole hydrobromide | Br.CC=1SC=CN1
reactant | N-benzisothiazolylpiperazine | 4.11 mmol | S1N=C(C2=C1C=CC=C2)N2CCNCC2 | C11H13N3S
reactant | diisopropylethyl amine | 4.11 mmol, 0.72 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium carbonate | 8.22 mmol, 0.87 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 2 mg | [I-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylisobutyl ketone | 40 ml | CC(=O)CC(C)C | C6H12O
product | 4-(4-(4-(4-(3-Benzisothiazolyl)piperazinyl)butyl)-phenyl)-2-methylthiazole | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCC2=CC=C(C=C2)C=2N=C(SC2)C | C25H28N4S2
